US06586423B2
1-[4-(2-Amino-3-methyl-pyridin-4-ylmethyl)-piperazin-1-yl]-ethanone (12-6)
1-[4-(2-Chloro-3-methyl-pyridin-4-ylmethyl)-piperazin-1-yl]-ethanone (free base, 0.040 g, 0.15 mmol), NaOtBu (0.020 g, 0.21 mmol), BINAP (0.014 g, 0.020 mmol), and Pd2dba3 (0.0068 g, 0.0103 mmol) were stirred in 1 mL anhydrous toluene under N2. Benzophenone imine (0.030 mL, 0.18 mmol) was added and the reaction was heated to 80° C. After 3 h the reaction was cooled to RT, diluted with Et2O, filtered through celite, and concentrated in vacuo. To the residue was added 1:1 THF/1M HCl. The mixture was stirred for 2 h, then washed 2× w/EtOAc. The aqueous phase was adjusted to pH 10 with Na2CO3 (solid). The solution was extracted 3× with DCM/nBuOH (95:5), and the combined organic extracts were dried over Na2SO4, filtered, concentrated. The residue was purified by flash column chromatography (95:5-90:10 DCM/MeOH) to afford the pure titled compound. 1H NMR (CDCl3) δ7.89 (d, 1H, J=5.1 Hz), 6.65 (d, 1H, J=5.1 Hz), 4.45 (bs, 2H), 3.61 (t, 2H, J=4.9 Hz), 3.43 (m, 4H), 2.41 (t, 4H, J=5.2 Hz), 2.12 (s, 3H), 2.08 (s, 3H).

reactant | 1-[4-(2-Chloro-3-methyl-pyridin-4-ylmethyl)-piperazin-1-yl]-ethanone | 0.15 mmol, 0.040 g | ClC1=NC=CC(=C1C)CN1CCN(CC1)C(C)=O | C13H18ClN3O
reactant | NaOtBu | 0.21 mmol, 0.020 g | CC(C)(C)[O-].[Na+]
reactant | BINAP | 0.020 mmol, 0.014 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Benzophenone imine | 0.18 mmol, 0.030 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
catalyst | Pd2dba3 | 0.0103 mmol, 0.0068 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[4-(2-Amino-3-methyl-pyridin-4-ylmethyl)-piperazin-1-yl]-ethanone | NC1=NC=CC(=C1C)CN1CCN(CC1)C(C)=O | C13H20N4O
